US07691882B2
3-Fluoro-4-(5-fluoro-pyridin-2-ylmethoxy)-benzaldehyde
To an N,N-dimethylformamide (20.0 mL) solution of (5-fluoro-pyridin-2-yl)-methanol (760 mg, 5.98 mmol) described in Manufacturing Example 41-1-1 was added sodium hydride (239 mg, 5.98 mmol, 60% in oil) under nitrogen atmosphere at 0° C., which was stirred for 10 minutes at room temperature. 3,4-Difluorobenzaldehyde (935 mg, 6.58 mmol) was then added at room temperature, and stirred for 30 minutes at room temperature. Water was added to the reaction solution at room temperature, which was then extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride, and the solvent was evaporated under a reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:heptane=1:3) to obtain the title compound (629 mg, 42.2%).

reactant | N,N-dimethylformamide | 20.0 mL | CN(C=O)C | C3H7NO
reactant | (5-fluoro-pyridin-2-yl)-methanol | 5.98 mmol, 760 mg | FC=1C=CC(=NC1)CO | C6H6FNO
reactant | sodium hydride | 5.98 mmol, 239 mg | [H-].[Na+]
reactant | 3,4-Difluorobenzaldehyde | 6.58 mmol, 935 mg | FC=1C=C(C=O)C=CC1F | C7H4F2O
solvent | Water | O | H2O
product | 3-Fluoro-4-(5-fluoro-pyridin-2-ylmethoxy)-benzaldehyde | 629 mg, 42.2% | FC=1C=C(C=O)C=CC1OCC1=NC=C(C=C1)F | C13H9F2NO2
